US07951815B2
A solution of 1-acetylpiperidin-4-one (1.5 g, 10.8 mmol) and (S)-phenylalaninamide (1.8 g, 10.8 mmol) in EtOH (30 ml) was heated under reflux for 2.5 h and stirred at RT for a further 16 h. After removal of the solvent and drying in vacuo, the product 8-acetyl-3-(S)-benzyl-1,4,8-triazaspiro[4,5]decan-2-one was obtained in a yield of 3.0 g (99%).

reactant | 1-acetylpiperidin-4-one | 10.8 mmol, 1.5 g | C(C)(=O)N1CCC(CC1)=O | C7H11NO2
reactant | (S)-phenylalaninamide | 10.8 mmol, 1.8 g | N[C@@H](CC1=CC=CC=C1)C(=O)N | C9H12N2O
solvent | EtOH | 30 ml | CCO | C2H6O
product | 8-acetyl-3-(S)-benzyl-1,4,8-triazaspiro[4,5]decan-2-one | C(C)(=O)N1CCC2(N[C@H](C(N2)=O)CC2=CC=CC=C2)CC1 | C16H21N3O2
